US06339154B1
(2) 2-[3-[[3-(Dimethylamino)propyl]amino]-3-oxopropyl]phenyl N-octadecylcarbamate
Triethylamine (0.62 ml) and octadecyl isocyanate (1.38 ml) were added to a solution containing N-[3-(dimethylamino)propyl]-3-(2-hydroxyphenyl)propanamide (1.00 g) in methylene chloride (10 ml). After being stirred for 3.5 hours at room temperature, the reaction mixture was diluted with chloroform, washed with saturated sodium hydrogencarbonate aqueous solution and water successively, dried over sodium sulfate anhydride, and concentrated. The residue was purified by silica gel column chromatography (silica gel 50 g, chloroform : methanol=30:1 to 10:1), thereby yielding the entitled compound (1.93 g) as white solid.

reactant | Triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | octadecyl isocyanate | 1.38 ml | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
reactant | N-[3-(dimethylamino)propyl]-3-(2-hydroxyphenyl)propanamide | 1.00 g | CN(CCCNC(CCC1=C(C=CC=C1)O)=O)C | C14H22N2O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-[[3-(Dimethylamino)propyl]amino]-3-oxopropyl]phenyl N-octadecylcarbamate | 1.93 g | C(CCCCCCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CCC(=O)NCCCN(C)C)=O | C33H59N3O3
